Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([N:2]([C:3](/[N:4]=[N:5]/[H:12])=[C:7]=[C:6]([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([c:3]1[n:4][n:5]([H:12])[c:6]([H:13])[c:7]1[H:14])[H:11])([H:8])([H:9])[H:10],18.0865140875633
[C:1]([O+:2]=[C-:3][C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])([H:8])([H:9])[H:10].[C:4]([H:11])([H:12])([H:13])[H:14]>>[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],16.712200671957305
[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([H:10])[H:11])([H:8])[H:9].[O:7]([H:12])[H:16],61.1191887391208
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([C:6]([C:5]([C:4][H:12])([H:13])[H:14])([H:15])[H:16])[H:11]>>[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]12[C:4]([H:11])([H:12])[C:5]([H:13])([H:14])[C:6]2([H:15])[H:16],7.35480443524699
[C+:1]([N:2]([C:3]([O-:4])=[C:5]([C:6]([H:13])([H:14])[H:15])[H:12])[H:11])([H:9])[H:10].[C:7]([H:8])([H:16])([H:17])[H:18]>>[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10],43.385118900966
[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:16].[O:2]=[C:3]([C@@:5]([C:4]([H:12])([H:13])[H:14])([C:6]([O:7][H:19])([H:17])[H:18])[H:15])[H:11],83.5971961681292
[C:1]1([H:7])=[C-:2][C:3]([H:8])([H:9])[C:4]([H:10])([H:11])[C:5]([H:12])=[C+:6]1>>[C:1](#[C:2][C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],42.9354622420823
[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3](=[N:4]\[H:12])/[C:5]([O:6][H:11])=[N:7]/[H:14])[H:13])([H:8])([H:9])[H:10],32.8854112633654
[C:1](=[C:2]([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])[H:8].[O:3]([H:9])[H:11]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[N:6]([H:12])[H:13])[H:10])([H:7])([H:8])[H:9],47.9389484939626
[C:1]([H:8])([H:9])([H:10])[H:16].[O:2]=[C:3]([C@@:5]([C:4]([H:12])([H:13])[H:14])([C:6]([O:7][H:19])([H:17])[H:18])[H:15])[H:11]>>[C:1]([O:2][C@@:3]([C:4]([H:12])([H:13])[H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:11])([H:8])([H:9])[H:10],88.0727790035576
[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:6](=[C:5])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C@@:2]([C:3](=[O:4])[H:11])([C:5]#[C:6][H:12])[H:10])([H:7])([H:8])[H:9],9.273742600537595
[O:1]([C:2]([C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])[H:7]>>[O:1]([C@:6]1([H:14])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])([H:13])[C:5]1)[H:7],94.1784287210125
[O:1]([C+:2]([C@@:3]([C:4](=[O:5])[H:12])([C-:6]=[C:7]([H:9])[H:13])[H:11])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],22.783383549740506
[O-:1][C@@:2]1([H:9])[C:3]([H:10])([H:11])[C:4](=[N-:5])[C+:7]([H:12])[C+:6]1[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8],53.4980494729264
[C:1]([N:2]([C:3](=[O:4])[C:5]([C:6]([H:13])([H:14])[H:15])([C:7]([H:16])([H:17])[H:18])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:7]([H:16])([H:17])[H:18])[H:11])([H:8])([H:9])[H:10].[C:3](=[O:4])=[C:5]([C:6]([H:13])([H:14])[H:15])[H:12],91.62934326544372
[C:1]([O:2][C:3]([C@@:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](=[O:2])([H:8])[H:10].[C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([C:6]#[N:7])[H:13])([H:9])([H:11])[H:12],81.44620290456221
[C:1]([O:2][C:3](=[O:4])[C:5](=[O:6])[H:10])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:5](=[C:3]1[O:4][O:6]1)[H:10])([H:7])([H:8])[H:9],186.289744658842
[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[N:6])[H:8])[H:7]>>[O:1]([N:6]=[C:5]=[C:2]([C:3](=[O:4])[H:9])[H:8])[H:7],82.6421071243339
[N:1]([C:2](=[O:3])[C:4]([O:5]/[C:6](=[N:7]/[H:13])[H:12])([H:10])[H:11])([H:8])[H:9]>>[N:1](=[C:2]1/[O:3][C@@:6]([N:7]([H:8])[H:13])([H:12])[O:5][C:4]1([H:10])[H:11])\[H:9],44.4182372845365
[O:1]([N:4]=[C:3]=[C:2]([C:5]#[N:6])[H:8])[H:7]>>[O:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:8])[H:7],44.2002554436747
[C:1]([O:2][C:3]([C:4](=[O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O:2]/[C:3](=[C:4](/[O:5][H:9])[H:11])[H:10])([H:6])([H:7])[H:8],62.2563738270612
[C:1]([C@@:2]1([C:5]#[C:6][H:12])[C:3]([H:10])([H:11])[O:4]1)([H:7])([H:8])[H:9]>>[C:1]([O:4][C:3]([C-:2]=[C:5]=[C+:6][H:12])([H:10])[H:11])([H:7])([H:8])[H:9],91.6347365669509
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C:1]([N:2]=[C:3]=[N:4][H:11])([H:7])([H:8])[H:9].[C:5](=[O:6])([H:10])[H:12],82.2582762762037
[O:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[C:4]([C:5]#[N:6])([H:10])[H:11]>>[O:1]=[C:2]([C:3]([C:4]([C:5]#[N:6])([H:10])[H:11])([H:8])[H:9])[H:7],52.2889841698867
